US05808062
4-Hydroxy-3-[(2-isopropylphenyl)thio]-6-(3-methylphenyl)-2H-pyran-2-one:
The title compound was prepared by Method A using 3'-methylacetophenone (0.87 g, 6.46 mmol), trimethylsilyl triflate (1.44g, 6.46 mmol), triethylamine (0.653 g, 6.46 mmol), methylene chloride (20 mL), and diethyl ester of [(2-isopropylphenyl)thio]propanedioic acid (1.0 g, 3.23 mmol). m.p. 161°-162° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.25 (d, 6H), 2.39 (s, 3H), 3.42 (m, 1H), 6.86 (s, 1H), 6.92 (d, 1H), 7.07 (t, 1H), 7.13 (t, 1H), 7.28 (d, 1H), 7.39 (d, 1H), 7.4 (t, 1H), 7.64 (d, 1H), 7.67 (s, 1H).

reactant | 3'-methylacetophenone | 6.46 mmol, 0.87 g | CC=1C=C(C=CC1)C(C)=O | C9H10O
reactant | trimethylsilyl triflate | 6.46 mmol, 1.44g | O(S(=O)(=O)C(F)(F)F)[Si](C)(C)C | C4H9F3O3SSi
reactant | triethylamine | 6.46 mmol, 0.653 g | C(C)N(CC)CC | C6H15N
reactant | [(2-isopropylphenyl)thio]propanedioic acid | 3.23 mmol, 1.0 g | C(C)(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C12H14O4S
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-3-[(2-isopropylphenyl)thio]-6-(3-methylphenyl)-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC(=CC=C1)C)=O)SC1=C(C=CC=C1)C(C)C | C21H20O3S
